US06225481B1
3-Iodo-p-anisoyl chloride (2a).
To a suspension of PCl5 (33.0 g, 158 mmol) in 30 mL CHCl3 was added, with magnetic stirring, 3-iodo-p-anisic acid (40.0 g, 144 mmol) in small portions. The solution was heated at reflux for b 1 h under a gentle nitrogen sweep, during which time the solution became homogenous. The solvent was evaporated under reduced pressure, then the residue was distilled under high vacuum. The fraction distilling at 152-156° C. (5 mm Hg; lit.10 bp 183-185° C., 12-13 mm Hg) was collected, which rapidly solidified as a pink solid. Recrystallization from 200 mL hexane/CH2Cl2 afforded the desired product as white needles (36.4 g, 85.5%); mp 58° C.; 1H NMR (CDCl3) δ 3.99 (s, 3 H), 6.88 (d, 1 H, J=8.7 Hz), 8.13 (dd, 1 H, J=8.7, 2.4 Hz), 8.52 (d, 1 H, J=2.4 Hz); EI-MS m/z 296 (M+, 42), 261 (100).

reactant | PCl5 | 158 mmol, 33.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-iodo-p-anisic acid | 144 mmol, 40.0 g | IC=1C=C(C(=O)O)C=CC1OC | C8H7IO3
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Iodo-p-anisoyl chloride | 36.4 g, 85.5% | IC=1C=C(C(=O)Cl)C=CC1OC | C8H6ClIO2
